US08975254B2
N-(2-(5-(3,4-dichlorophenyl)furan-2-yl)ethyl)-3-(4-methylpiperazine-1-carbonyl)-1H-pyrazole-5-carboxamide
The title compound was synthesized as in Example 1 starting from 1-methylpiperazine and 5-{2-[5-(3,4-dichlorophenyl)furan-2-yl]ethylcarbamoyl}-1H-pyrazole-3-carboxylic acid. Crude product was purified by chromatography (CombiFlash, silica column, eluent 0-10% MeOH/DCM) and crystallized from DCM/heptane to give 1.06 g (35%) of the title compound. 1H-NMR (400 MHz; d6-DMSO): δ 2.19 (s, 3H), 2.33 (br s, 4H), 2.95 (t, 2H), 3.56 (q, 2H), 3.62 (br s, 2H), 3.85 (br s, 2H), 6.34 (d, 1H), 7.02 (d, 1H), 7.07 (br s, 1H), 7.60 (dd, 1H), 7.63 (d, 1H), 7.84 (d, 1H), 8.61 (s, 1H), 13.92 (s, 1H).

reactant | 1-methylpiperazine | CN1CCNCC1 | C5H12N2
reactant | 5-{2-[5-(3,4-dichlorophenyl)furan-2-yl]ethylcarbamoyl}-1H-pyrazole-3-carboxylic acid | ClC=1C=C(C=CC1Cl)C1=CC=C(O1)CCNC(=O)C1=CC(=NN1)C(=O)O | C17H13Cl2N3O4
product | N-(2-(5-(3,4-dichlorophenyl)furan-2-yl)ethyl)-3-(4-methylpiperazine-1-carbonyl)-1H-pyrazole-5-carboxamide | 1.06 g, 35% | ClC=1C=C(C=CC1Cl)C1=CC=C(O1)CCNC(=O)C1=CC(=NN1)C(=O)N1CCN(CC1)C | C22H23Cl2N5O3
